data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1F", "products": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1F"}, {"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1F", "products": "COc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1F"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(C)c1", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(C)c1"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(C)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1C", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(C)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCc1cccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "CCc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "CCc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "CCc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "CCc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "CCc1cccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "CCc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "CCc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "CCc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "CCc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "CCc1ccc2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1OC.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2OC)C(=N)C=C1", "products": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC"}, {"reactants": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC", "products": "COc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc2[nH]cc(-c3ccccc3)c2cc1OC.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CF)CF)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)CF)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(CF)CF)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C1C2C(C(=O)OC)(C(=C)O[Si](C)(C)C)CC1C(CC(Br)=C)=C2", "products": "C1(O[Si](C)(C)C)=C(C(=O)OC)CC2CC=CC(CC(Br)=C)2C1"}, {"reactants": "C1(O[Si](C)(C)C)=C(C(=O)OC)CC2CC=CC(CC(Br)=C)2C1", "products": "C1(O)=C(C(=O)OC)CC2CC=CC(CC(Br)=C)2C1"}, {"reactants": "C1(O)=C(C(=O)OC)CC2CC=CC(CC(Br)=C)2C1", "products": "O=C1C(C(=O)OC)CC2CC=CC(CC(Br)=C)2C1"}]}
